US04419357
A suspension of 5.3 g of 2-amino-3-methoxy-N-(1H-tetrazol-5-yl)benzamide in 30 ml of triethoxymethane was refluxed for 14 hours to give 8-methoxy-3-(1H-tetrazol-5-yl)-4(3H)-quinazolinone melting at about 260°-261° C. (dec) after recrystallization from dimethylformamide.

reactant | 2-amino-3-methoxy-N-(1H-tetrazol-5-yl)benzamide | 5.3 g | NC1=C(C(=O)NC2=NN=NN2)C=CC=C1OC | C9H10N6O2
reactant | triethoxymethane | 30 ml | C(C)OC(OCC)OCC | C7H16O3
product | 8-methoxy-3-(1H-tetrazol-5-yl)-4(3H)-quinazolinone | COC=1C=CC=C2C(N(C=NC12)C1=NN=NN1)=O | C10H8N6O2
